Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceftin / Bactrim / Tetracycline / Rifampin / Levaquin in D5W / 
Penicillins / Heparin Analogues / minoxidil / vancomycin
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
Hemodialysis
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of DMII, COPD on 
home O2, OSA on bipap, HTN, ESRD on HD (___) via RUE 
brachiobrachial AVG (___) who presents with clotted AVG s/p 
failed thrombectomy. Found to be hyperkalemic.  
Patient has a RUE AVG placed ___. She had recurrent 
problems with outflow stenosis and difficulty with cannulation 
due to the course of the graft. On ___ she underwent 
revision with a jump graft and then another revision with patch 
angioplasty of the venous anastomosis on ___. Over the 
past two weeks, patient has had difficulty at graft site 
including pain and swelling during HD treatments, but graft has 
been functioning. Today, HD could not be completed and she was 
sent to the ___ due to concern for clot, where an 
ultrasound showed a thrombus extending from the graft proximally 
to the sublcavian vein (imaging not yet available in our 
system). This was felt to be indicative of a central stenosis 
that would not be amenable to an open thrombectomy. An ___ 
thrombectomy was attempted and 4 mg TPA was instilled without 
success. Because of use of TPA, ___ was not comfortable placing 
another HD line. Of note, she does have a left forearm fistula 
with a thrill placed in ___ at an OSH, which was never used 
because it was too deep. She was sent to the ER for further 
eval.  
In the ED, initial vitals were 98.3 64 138/53 18 97% RA. Initial 
labs were notable for hyperkalemia to 6.4 and thrombocytopenia 
(54). Patient received kayexalate, calcium gluconate, and 
insulin. Renal was consulted and will see patient in the morning 
but preliminarily recommended kayexalate and NPO at ___. She was 
seen by ___, who recommended 6 months of anticoagulation for her 
RUE DVT. Of note, she has a heparin allergy which limits 
anticoagulation options. She was admitted to the MICU for 
further care.  
On arrival to the MICU, patient confirms the above history. She 
has not noted SOB above her baseline or palpitations. She 
endorses pain and swelling over the graft site.  
In terms of her thrombocytopenia, patient reports it was 
diagnosed ___ years ago. Platelets nadired in the low 30's. She 
was seen at ___, where she was told she should not take 
heparin again in case thrombocytopenia is related to heparin. 
She was not formally diagnosed with HIT. She received N-plate 
but has not taken it recently. Baseline plt is 100, most 
recently ~106. She has had no recent mucosal bleeding, blood in 
stool, or hematuria.  

 
Past Medical History:
DM (insulin dependent on insulin pump)
morbid obesity
ESRD on Dialysis
OSA on bipap ___
asthma
Diverticulosis s/p partial colectomy
COPD on home oxygen
Cholecystectomy
Paroxysmal afib in the setting of hyperkalemia

 
Social History:
___
Family History:
 Mother and sister with DM and HTN. Father died at ___ years old 
with stroke and lung cancer. Mother died at ___ with CHF.

 
Physical Exam:
Admission Physical Exam:  
Vitals: 156/67 79 98 4L  
General- Alert, oriented, no acute distress, morbidly obese  
HEENT- Sclera anicteric, MMM, oropharynx clear, no mucosal 
bleeding  
Neck- supple, difficult to assess due to habitus  
Lungs- LCTAB with exceptions of very faint bibasilar rales, no 
wheezes, rales, ronchi  
CV- RRR, S1 + S2, III/VI systolic murmur heard throughout 
precordium, no r/g  
Abdomen- obese, soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused. RUE with AVG with bruit and overlying 
ecchymoses, tenderness. No erythema or drainage. Left forearm 
with AVF with thrill/bruit. ___ pulses 1+ and symmetrical.  
Neuro- A+O x 3, CN2-12 intact, motor function grossly normal, 
decreased sensation of feet and ankles  

DISCHARGE:
Vitals: 98.4 90/40 57 20 98 3L
General: lying bed, NAD  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: mild crackles at bases bilaterally, no rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: no cce, ecchymoses present over R inner arm, 6cmx7cm  
 
Pertinent Results:
ADMISSION LABS
___ 07:40PM BLOOD WBC-9.3 RBC-3.41* Hgb-10.8* Hct-32.6* 
MCV-96 MCH-31.7 MCHC-33.2 RDW-15.2 Plt Ct-57*#
___ 07:40PM BLOOD Neuts-91.8* Lymphs-6.1* Monos-1.5* 
Eos-0.4 Baso-0.2
___ 07:40PM BLOOD ___ PTT-34.5 ___
___ 07:40PM BLOOD Glucose-253* UreaN-93* Creat-9.2* Na-136 
K-6.4* Cl-100 HCO3-19* AnGap-23*
___ 07:40PM BLOOD Calcium-8.6 Phos-6.9* Mg-2.2

CXR ___:
FINDINGS:  Comparison is made to prior study of ___. 
There is cardiomegaly.  There is improvement of vascular 
congestion since the prior study.  There remains some prominence 
of pulmonary interstitial 
markings.  There is no focal consolidation or pneumothoraces. 
  
REPORTS:
RUE US:
IMPRESSION:  No right upper extremity deep vein thrombosis.

LUE vein mapping: pending

DISCHARGE:

___ 08:35AM BLOOD WBC-9.4 RBC-3.00* Hgb-9.6* Hct-28.3* 
MCV-94 MCH-31.9 MCHC-33.9 RDW-15.1 Plt Ct-69*
___ 08:35AM BLOOD Glucose-142* UreaN-73* Creat-7.7*# Na-136 
K-3.9 Cl-95* HCO3-22 AnGap-23*
___ 08:35AM BLOOD Calcium-8.1* Phos-6.8*# Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of DM II (on 
insulin), COPD (on ___ home O2), OSA, and ESRD on HD (___) 
who presented from HD with a clotted RUE AVG and hyperkalemia 
and thrombocytopenia. 

# Hyperkalemia: Likely ___ to ESRD and missing HD session on 
___. Per patient, K occasionally runs in low 6's prior to HD 
sessions. She was unable to be dialyzed ___ due to graft 
dysfunction from clot. Reportedly had peaked Ts on EKG in ED, 
received kayexalate and calcium gluconate. EKG on arrival to the 
MICU did not show hyperkalemic changes. No arrhythmias on 
telemetry. Kayexelate was continued and her potassium 
downtrended to 5.2 by HD 1. Pt's HD line appeared to be 
functioning well (see below), and pt was dialyzed. Post-HD 
potassium was within normal limits.  

# RUE DVT: Extends to right subclavian. ___ recommended 6 months 
of anticoagulation. but patient has a heparin allergy, limiting 
anticoagulation options. Because of tenuous IV access (#20 PIV R 
hand) and thrombocytopenia, the risk of starting a 
non-reversible anticoagulant such as argatroban was judged to 
outweigh the benefit, esp given that pt was scheduled for 
temporary HD line placement by ___ the next day. Patient did not 
require a procedure as her RUE DVT was no longer present after 
repeat RUE ultrasound did not show a clot. Pt started warfarin 
however it was discontinued prior to her discharge given that 
transplant surgery was planning a procedure on ___ (see 
below). 

# Thrombocytopenia: Etiology unclear. Recent baseline 100. 
History is not convincing for HIT, though OSH hematology records 
were not available to confirm. ITP also possible. Trended 
platelets w/ plan to transfuse if fell <10 or if actively 
bleeding which did not occur.

# ESRD: On HD ___. After clot prevented completion of HD on 
___, flow in HD line reportedly could not be restored after an 
attempted ___ thrombectomy and TPA instillation. Could not 
receive heparin ___ reported allergy. In the MICU, pt was 
continued on her home furosemide, sevelamer and nephrocaps. 
Initially RUE AVG was non-functional, and ___ HD line 
placement was planned. However, trial of accessing HD line was 
successful, possibly delayed effect of TPA infusion, and pt was 
dialyzed on ___. Post-HD potassium was wnl, and pt was 
transferred to the floor in stable condition. Pt underwent US of 
her L forearm fistula to evaluate for possibility of 
superficializing, which showed patent AVF. Patient had a patent 
RUE and LUE fistula.  She is scheduled to have a 
superficialization procedure by transplant surgery on ___, 
at which time she will likely restart warfarin.

# DM II. Continued insulin pump.  

# COPD. Continued O2 by NC @ 3L during day, 4L at night 
(baseline), continue Symbicort, albuterol. 

# OSA: per patient, had sleep study which showed resolution of 
OSA, not on CPAP
 
# Hypercholesterolemia. Continued simvastatin.  

# HTN. Continued amlodipine, doxazosin.  

# pHTN. Stable.   

# GERD. Continued omeprazole. 
 
# Tremor: Patient confirmed she has no seizure history; Keppra 
is for tremor only. Continued Keppra.  

TRANSITIONAL ISSUES:
-Patient is to receive surgery on ___ from transplant for 
LUE fistula
-Patient should restart warfarin after procedure to prevent 
clots

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation 2 puffs BID 
2. LeVETiracetam 500 mg PO TID ON SAT, SUN, TUES, THURS 
3. LeVETiracetam 500 mg PO BID MON, WEDS, FRI 
Dose after HD 
4. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
5. Furosemide 160 mg PO BID: SAT, SUN, TUES, THURS 
6. Furosemide 160 mg PO DAILY: MON, WEDS, FRI 
7. Thiamine 100 mg PO DAILY 
8. Amlodipine 10 mg PO DAILY 
Hold for SBP < 110 or HR < 65 
9. Calcium 600 *NF* (calcium carbonate) 600 mg (1,500 mg) Oral 
daily 
10. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Omeprazole 20 mg PO BID 
13. Doxazosin 2 mg PO HS 
Hold for SBP < 110 
14. Simvastatin 20 mg PO HS 
15. Bisacodyl 10 mg PO DAILY:PRN constipation 
16. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
17. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180
18. Docusate Sodium 100 mg PO BID 
19. Senna 1 TAB PO BID:PRN constipation 
20. Nephrocaps 1 CAP PO DAILY 
21. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, wheezing 
22. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB, wheezing 
2. Amlodipine 10 mg PO DAILY 
3. Bisacodyl 10 mg PO DAILY:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. Doxazosin 2 mg PO HS 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Furosemide 160 mg PO BID: SAT, SUN, TUES, THURS 
8. Furosemide 160 mg PO DAILY: MON, WEDS, FRI 
9. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO Q6H:PRN pain 
10. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180
11. LeVETiracetam 500 mg PO TID ON SAT, SUN, TUES, THURS 
12. LeVETiracetam 500 mg PO BID MON, WEDS, FRI 
13. Nephrocaps 1 CAP PO DAILY 
14. Omeprazole 20 mg PO BID 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Senna 1 TAB PO BID:PRN constipation 
17. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
18. Simvastatin 20 mg PO HS 
19. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation 2 puffs BID 
20. Thiamine 100 mg PO DAILY 
21. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
22. Calcium 600 *NF* (calcium carbonate) 600 mg (1,500 mg) Oral 
daily 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD on Dialysis
R AV fistula clot

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after your dialysis fistula clotted.  
While you were here, your fistula was re-evaluated and you had 
tPA and a thrombectomy of that fistula.  An ultrasound later 
showed the fistula to be working well.  You also had an 
ultrasound of your left fistula (which you haven't been using) 
and can follow up with the transplant surgeon regarding that 
fistula.  We started you on warfarin (coumadin) to help prevent 
clots in that fistula.  We stopped this so you could potentially 
have surgery ___ for your Left fistula.

Please follow up with your primary care doctor, your 
nephrologist, and transplant surgery.  The transplant surgeons 
would like to see you later this week, likely on ___, to 
potentially superficialize your left upper extremity fisutla or 
place a new fistula if necessary. It was a pleasure taking care 
of you.
 
Followup Instructions:
___